US08975400B2
2-(3,4-difluorophenoxy)-5-(((1-isopropyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile
Prepared in a manner similar to that described for E1 using sodium hydride (16.85 mg, 0.702 mmol) in THF (4 mL), 2-(3,4-difluorophenoxy)-5-(hydroxymethyl)benzonitrile (100 mg, 0.468 mmol) in DMF (2.00 mL) and 7-chloro-1-isopropyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one.

reactant | sodium hydride | 0.702 mmol, 16.85 mg | [H-].[Na+]
reactant | 2-(3,4-difluorophenoxy)-5-(hydroxymethyl)benzonitrile | 0.468 mmol, 100 mg | FC=1C=C(OC2=C(C#N)C=C(C=C2)CO)C=CC1F | C14H9F2NO2
reactant | 7-chloro-1-isopropyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | ClC=1C=C2N(C(N1)=O)CCN2C(C)C | C9H12ClN3O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | DMF | 2.00 mL | CN(C)C=O | C3H7NO
product | 2-(3,4-difluorophenoxy)-5-(((1-isopropyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile | FC=1C=C(OC2=C(C#N)C=C(C=C2)COC=2C=C3N(C(N2)=O)CCN3C(C)C)C=CC1F | C23H20F2N4O3
